US07842713B2
4-(4-(Methylsulfonyl)phenoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzo-[b]-thiophene-6-carboxamide
Cs2CO3 (0.806 g, 2.47 mmol) was added to a solution of ethyl 4-hydroxybenzo[b]thiophene-6-carboxylate (0.275 g, 1.24 mmol) and 1-fluoro-4-(methylsulfonyl)benzene (0.22 g, 1.26 mmol) in DMF (5 mL). The mixture was stirred at 120° C. for 8 hours and then cooled to room temperature. 1-Methyl-1H-pyrazol-3-amine (0.18 g, 1.85 mmol) and HATU (0.7 g, 1.85 mmol) were added. The reaction mixture was stirred at 50° C. for one hour and then filtered. Purification by HPLC gave a solid (127 mg, 24% yield) as expected product. 1H NMR (400 MHz, DMSO-d6) δ 10.97 (s, 1 H) 8.57-8.63 (m, 1 H) 8.01-8.07 (m, 1 H) 7.94-7.96 (m 2 H) 7.73 (m, 1 H) 7.61 (m, 1 H) 7.38-7.41 (m, 1 H) 7.25-7.27 (m, 2 H) 6.60 (m, 1 H) 3.78 (s, 3H), 3.22 (s, 3 H). LCMS for C20H17N3O4S2 m/z 428.10 (M+H)+.

reactant | Cs2CO3 | 2.47 mmol, 0.806 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 4-hydroxybenzo[b]thiophene-6-carboxylate | 1.24 mmol, 0.275 g | OC1=CC(=CC=2SC=CC21)C(=O)OCC | C11H10O3S
reactant | 1-fluoro-4-(methylsulfonyl)benzene | 1.26 mmol, 0.22 g | FC1=CC=C(C=C1)S(=O)(=O)C | C7H7FO2S
reactant | 1-Methyl-1H-pyrazol-3-amine | 1.85 mmol, 0.18 g | CN1N=C(C=C1)N | C4H7N3
reactant | HATU | 1.85 mmol, 0.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(4-(Methylsulfonyl)phenoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzo-[b]-thiophene-6-carboxamide | CS(=O)(=O)C1=CC=C(OC2=CC(=CC=3SC=CC32)C(=O)NC3=NN(C=C3)C)C=C1 | C20H17N3O4S2
